US07304081B2
4-Methylmorpholine (55 μL, 0.50 mmol) was added to a mixture of 1-[4-(1H-pyrazol-1-yl)phenyl]cyclopropanecarboxylic acid (0.10 mmol), 3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one dihydrochloride (0.026 g, 0.10 mmol), and BOP (0.057 g, 0.11 mmol) in DMF (1 mL). The mixture was stirred at room temperature for 2 hours, then adjusted to be acidic (PH=2.0) with TFA, and then diluted with DMF (0.8 mL). The resulting solution was purified by a prep-LCMS followed by chiral HPLC to give (1R)-1′-({1-[4-(1H-pyrazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (30%). MS (ESI): (M+H)+=401.1

reactant | 4-Methylmorpholine | 0.50 mmol, 55 μL | CN1CCOCC1 | C5H11NO
reactant | 1-[4-(1H-pyrazol-1-yl)phenyl]cyclopropanecarboxylic acid | 0.10 mmol | N1(N=CC=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C13H12N2O2
reactant | 3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one dihydrochloride | 0.10 mmol, 0.026 g | Cl.Cl.N1CC2(CC1)OC(C=1C=NC=CC12)=O
reactant | BOP | 0.11 mmol, 0.057 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | (1R)-1′-({1-[4-(1H-pyrazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 30% | N1(N=CC=C1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C=1C=NC=CC12)=O | C23H20N4O3
